US09376422B2
Step 4: Synthesis of methyl 2-bromo-5-chloro-3-[ethyl(oxan-4-yl)amino]benzoate
To a solution of methyl 2-bromo-5-chloro-3-(oxan-4-ylamino)benzoate (300 mg, 0.86 mmol) in 1,2-dichloroethane (3 ml) at room temperature under nitrogen was added acetaldehyde (96 μl, 1.7 mmol) followed by acetic acid (0.3 ml, 5.16 mmol). This solution was stirred for 5 minutes before the addition of sodium triacetoxyborohydride (0.55 g, 2.6 mmol) at room temperature with reaction monitoring by LCMS. After 22 h, further acetaldehyde (96 μl, 1.7 mmol) was added to the reaction mixture and this was stirred for 10 minutes before the addition of sodium triacetoxyborohydride (0.55 g, 2.6 mmol). After 3 days, the reaction mixture was diluted with 1,2-dichloroethane (5 ml). Acetaldehyde (962 μl, 17.2 mmol) was added to the reaction mixture and this was stirred for 10 minutes before the addition of sodium triacetoxyborohydride (1.82 g, 8.6 mmol). After 15 h, further acetaldehyde (960 μl, 17.2 mmol) was added to the reaction mixture and this was stirred for 10 minutes before the addition of sodium triacetoxyborohydride (1.82 g, 8.6 mmol). The reaction mixture was then stirred at room temperature for a further 22 hours before deionized water (25 ml) was added and the mixture was neutralised with solid NaHCO3. EtOAc (25 ml) was added and the phases were separated. The aqueous layer was then extracted with EtOAc (2×25 ml) and the combined organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by FCC (10 g silica, Isolute cartridge, gradient of eluents; 99:1 Heptane:EtOAc to 8:2 Heptane:EtOAc) to give 122 mg (38%) of the title compound as a colourless oil. LC-MS 85%, m/z=376.3/378.2/379.9, 1H NMR (500 MHz, Chloroform-d) δ 7.31 (d, J=2.5 Hz, 1H), 7.18 (d, 12.4 Hz, 1H), 3.98 (dd, J=8.7, 5.5 Hz, 2H), 3.94 (s, 3H), 3.35 (td, J=11.6, 5.5 Hz, 2H), 3.19 (t, J=7.1 Hz, 1H), 3.12 (q, J=7.1 Hz, 2H), 1.75 (td, J=10.1, 8.8, 3.9 Hz, 4H), 0.92 (t, J=7.1 Hz, 3H).

reactant | methyl 2-bromo-5-chloro-3-(oxan-4-ylamino)benzoate | 0.86 mmol, 300 mg | BrC1=C(C(=O)OC)C=C(C=C1NC1CCOCC1)Cl | C13H15BrClNO3
reactant | acetaldehyde | 1.7 mmol, 96 μl | C(C)=O | C2H4O
reactant | acetic acid | 5.16 mmol, 0.3 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.6 mmol, 0.55 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetaldehyde | 1.7 mmol, 96 μl | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 2.6 mmol, 0.55 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Acetaldehyde | 17.2 mmol, 962 μl | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 8.6 mmol, 1.82 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetaldehyde | 17.2 mmol, 960 μl | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 8.6 mmol, 1.82 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
solvent | water | 25 ml | O | H2O
product | methyl 2-bromo-5-chloro-3-[ethyl(oxan-4-yl)amino]benzoate | 122 mg, 38% | BrC1=C(C(=O)OC)C=C(C=C1N(C1CCOCC1)CC)Cl | C15H19BrClNO3
